US07049312B1
Synthesis of 2-[(Pyrrol-2-yl)methylene]-2H-1,4-benzoxazin-3(4H)-one
Sodium methoxide (0.65 g, 0.012 mol) was added in one portion to a mixture of 2H-1,4-benzoxazin-3(4H)-one (1.49 g, 0,01 mol) and pyrrole-2-carboxaldehyde (1.58 g, 0.016 mol) in dry DMF (10 ml). The reaction mixture was refluxed for 48 h, then cooled at room temperature and poured into crushed ice and left overnight at 4° C. The precipitated solid was collected by filtration, washed with water and dried. The precipitate was boiled with ethanol (150 ml) and filtered while hot to remove impurities. The filtrate was evaporated to dryness under reduced pressure, and the residue was chromatographed on a silica gel column using (95:5) toluene:ethyl acetate as the mobile phase.

reactant | Sodium methoxide | 0.012 mol, 0.65 g | C[O-].[Na+]
reactant | 2H-1,4-benzoxazin-3(4H)-one | 0,01 mol, 1.49 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | pyrrole-2-carboxaldehyde | 0.016 mol, 1.58 g | N1C(=CC=C1)C=O | C5H5NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[(Pyrrol-2-yl)methylene]-2H-1,4-benzoxazin-3(4H)-one | N1C(=CC=C1)C=C1OC2=C(NC1=O)C=CC=C2 | C13H10N2O2
